US08026235B1
(Step 1) Preparation of 2-((2-methoxyethoxy)methoxy)-3-nitrobenzoic acid methyl ester
To a solution of 2-hydroxy-3-nitrobenzoic acid methyl ester 9.9 g (50 mmol) in dimethylformamide 100 mL were added K2CO3 7.6 g (55 mmol) and chloromethoxyethoxymethane 6.3 mL (55 mmol), followed by stirring at room temperature for 2 hrs. The resulting reaction mixture was concentrated in a vacuum, diluted with ethylacetate and washed with distilled water and a saturated NaCl solution. The residue was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound 14.0 g (yield 98%).

reactant | 2-hydroxy-3-nitrobenzoic acid methyl ester | 50 mmol, 9.9 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])O)=O | C8H7NO5
reactant | K2CO3 | 55 mmol, 7.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethoxyethoxymethane | 55 mmol, 6.3 mL | ClCOCCOC | C4H9ClO2
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-((2-methoxyethoxy)methoxy)-3-nitrobenzoic acid methyl ester | 14.0 g, yield 98% | COC(C1=C(C(=CC=C1)[N+](=O)[O-])OCOCCOC)=O | C12H15NO7
